US08802659B2
ethyl 3-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)-2-hydroxypropanoate
(6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methanamine (311 mg, 1.0 mmol, 1.0 eq.) and ethyl oxirane-2-carboxylate (116 mg, 1.0 mmol, 1.0 eq.) was dissolved in EtOH (5 mL). Then the mixture was refluxed for 2 h. The mixture was concentrated and purified by silica gel column chromatography using DCM/MeOH (10/1) as eluent to give product as a slight yellow oil (311 mg, 35%). EDI-MS (M+1)+: 428.1. HPLC: 92.02%. 1H NMR (400 MHz, CDCl3) δ 7.70-7.64 (m, 3H), 7.38 (dd, 1H), 7.13-7.11 (m, 2H), 4.31-4.21 (m, 4H), 3.93 (q, 2H), 3.06-2.88 (AB, 2H), 2.60 (b, 2H), 2.28-2.26 (m, 2H), 1.90-1.87 (m, 2H), 1.45-1.41 (m, 2H), 1.26 (t, 3H), 1.20-1.09 (m, 3H), 0.89 (s, 9H).

reactant | (6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methanamine | 1.0 mmol, 311 mg, 1.0 eq. | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN | C21H29NO
reactant | ethyl oxirane-2-carboxylate | 1.0 mmol, 116 mg, 1.0 eq. | O1C(C1)C(=O)OCC | C5H8O3
solvent | EtOH | 5 mL | CCO | C2H6O
product | ethyl 3-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)-2-hydroxypropanoate | 311 mg, 35% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCC(C(=O)OCC)O | C26H37NO4
